US06977262B2
4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(1-guanylpiperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine
To a solution of 4-(2,1,3-benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine (1.5 g) in MeOH (30 mL) was added diisopropylethylamine (4.2 g), and 1H-pyrazole-1-carboxamidine hydrochloride (0.96 g) at room temperature and the mixture was stirred overnight. The precipitated crystals were collected by filtration to give the title compound (1.0 g) as yellow crystals.

reactant | 4-(2,1,3-benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine | 1.5 g | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2CCNCC2)=NNC1 | C18H17N7O
reactant | diisopropylethylamine | 4.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.96 g | Cl.N1(N=CC=C1)C(=N)N
solvent | MeOH | 30 mL | CO | CH4O
product | 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(1-guanylpiperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine | 1.0 g | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2CCN(CC2)C(N)=N)=NNC1 | C19H19N9O
